Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
Colonoscopy ___

 
History of Present Illness:
Mr. ___ is a ___ gentleman with previously-treated
Crohn's (not biopsy proven) who presented with abdominal pain 
and
is admitted for workup of possible Crohn's disease. 

The patient was in his usual state of health until about 6 weeks
ago when he began to develop RLQ abdominal pain and intermittent
loose stools. He then traveled to ___ where his symptoms
initially improved but worsened again when he returned. He
presented to his PCP and workup showed a parasitic infection for
which he was treated with antibiotics. He also underwent CT and
MRI that revealed a 40cm segment of inflammation in the small
intestine that did not improve after parasite treatment, and an
incidental finding of prostatitis (for which he was started on
Bactrim). On the day of presentation, he developed worsening
abdominal pain in the setting of ongoing intermittent non-bloody
diarrhea so he presented to the ED for further workup and
management. 

In the ED, initial VS were:
97.9  68  120/80  18  100% RA 

Exam notable for: RRR. CTAB. Tenderness to palpation of the 
right
lower quadrant, no peritoneal signs. No c/c/e. Alert and well
appearing.

Labs showed:
Normal CBC, normal LFTs, and normal chemistries. 

GI was consulted and recommended "NPO/IVF, labs, stool cultures,
admission for workup of possible Crohn's disease."

Patient received:
-- Bactrim
-- IVF 

On arrival to the floor, patient confirms the above story. He
endorses intermittent non-bloody diarrhea throughout the past
several weeks. He is able to tolerate PO and does not have any
nausea or vomiting. He denies fevers, chills, night sweats. He
denies any rashes. 

Of note, he presented with similar symptoms in ___. Imaging
workup was consistent with bowel inflammation. He was treated 
for
Crohn's disease but did not have an official confirmatory 
biopsy.

REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI

 
Past Medical History:
- Bowel Inflammation, presumed Crohn's
 
Social History:
___
Family History:
Aunt with several autoimmune conditions including Sjogrens
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
============================
VS: ___ 0422 Temp: 97.4 PO BP: 111/72 R Sitting HR: 48 RR:
17 O2 sat: 99% O2 delivery: Ra 
GENERAL: NAD
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM
NECK: supple, no LAD, no JVD
HEART: RRR, S1/S2, no murmurs, gallops, or rubs
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
ABDOMEN: nondistended, mild ttp in RLQ, no rebound/guarding, no
hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally
NEURO: A&Ox3, moving all 4 extremities with purpose
SKIN: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAM:
=============================
VS: 24 HR Data (last updated ___ @ 2349)
    Temp: 97.8 (Tm 98.8), BP: 96/58 (93-109/56-68), HR: 46
(46-55), RR: 20 (___), O2 sat: 98% (97-98)  
GENERAL: NAD
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM
NECK: supple, no LAD, no JVD
HEART: RRR, S1/S2, no murmurs, gallops, or rubs
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
ABDOMEN: nondistended, mild ttp in RLQ, no rebound/guarding, no
hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally
NEURO: A&Ox3, moving all 4 extremities with purpose
SKIN: warm and well perfused, no excoriations or lesions, no
rashes

 
Pertinent Results:
ADMISSION LABS:
====================
___ 09:14PM BLOOD WBC-7.0 RBC-5.41 Hgb-15.8 Hct-46.8 MCV-87 
MCH-29.2 MCHC-33.8 RDW-13.2 RDWSD-41.6 Plt ___
___ 09:14PM BLOOD Neuts-42.4 ___ Monos-7.6 Eos-1.4 
Baso-0.4 Im ___ AbsNeut-2.96 AbsLymp-3.36 AbsMono-0.53 
AbsEos-0.10 AbsBaso-0.03
___ 09:14PM BLOOD Glucose-118* UreaN-14 Creat-1.1 Na-141 
K-4.5 Cl-100 HCO3-24 AnGap-17
___ 09:14PM BLOOD ALT-15 AST-10 LD(LDH)-164 AlkPhos-45 
TotBili-0.5
___ 09:14PM BLOOD Lipase-39
___ 09:14PM BLOOD Albumin-4.6 Iron-65
___ 09:14PM BLOOD calTIBC-298 Ferritn-248 TRF-229
___ 09:14PM BLOOD TSH-1.5
___ 09:14PM BLOOD 25VitD-29*
___ 09:14PM BLOOD CRP-0.7
___ 09:14PM BLOOD IgA-199
___ 09:14PM BLOOD tTG-IgA-3

PERTINENT/DISCHARGE LABS:
=============================
___ 08:15AM BLOOD WBC-6.0 RBC-5.73 Hgb-16.7 Hct-49.7 MCV-87 
MCH-29.1 MCHC-33.6 RDW-13.6 RDWSD-42.9 Plt ___
___ 08:15AM BLOOD Glucose-89 UreaN-9 Creat-1.1 Na-142 K-4.2 
Cl-105 HCO3-26 AnGap-11
___ 08:15AM BLOOD Calcium-9.6 Phos-3.3 Mg-2.1

MICROBIOLOGY:
===============
___ 4:45 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

   FECAL CULTURE (Pending): 

   CAMPYLOBACTER CULTURE (Pending): 

   OVA + PARASITES (Pending): 
___ 4:45 pm STOOL     CONSISTENCY: FORMED      ADD-ON. 

   FECAL CULTURE - R/O YERSINIA (Pending): 

RESULTS/IMAGING:
=================
COLONOSCOPY ___:
Impression: normal mucosa in the whole colon and terminal ileum 
to 30cm. 
 
Brief Hospital Course:
Mr. ___ is a ___ gentleman with previously-treated 
Crohn's (not biopsy proven) who presented with abdominal pain 
and is admitted for workup of possible Crohn's disease.

ACUTE ISSUES:
========================
#Ileitis
#Abdominal Pain
Patient has previously been treated for presumed Crohn's disease 
in ___ ___ years ago with steroids and other immunomodulators. He 
has been symptoms free until the past six weeks when he 
developed onset of RLQ abdominal pain. He underwent CT 
abd/pelvis as outpatient which demonstrated mucosal 
hyperenhancement involving a 40 cm segment of distal ileum. 
Stool studies as an outpatient were notable for E. histolytica 
infection for which he completed a course of tinidazole and 
paromomycin prior to admission. Repeat imaging with MRE after 
completion of anti-parasitic course showed resolution of ileitis 
on ___. However, he has continued to have abdominal pain, 
leading to admission. GI was consulted and patient underwent 
colonoscopy without visualization of inflammation. He had 
several biopsies taken during procedure. Stool studies performed 
during hospitalization, including culture, O+P, e. histolytica 
antigen, and Yersinia culture were pending at time of discharge. 
Testing for Celiac disease with tTG-IgA was also pending at time 
of discharge. C-Diff was negative. He was started on dicyclomine 
for pain management. Plan to follow up with GI as outpatient. 

#Prostatitis. 
Seen on MRI imaging for evaluation of ileitis as outpatient. 
Patient has remained asymptomatic. He remained on Bactrim as 
prescribed as outpatient. 

TRANSITIONAL ISSUES:
========================
[] Follow up colon biopsy results
[] Follow up stool studies: culture, O+P, E. histolytica 
antigen, Yersinia culture
[] Follow up tTG-IgA
[] Follow up with GI as outpatient
[] Continue Bactrim DS 1 tab BID to complete 4 week course - 
last day ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sulfameth/Trimethoprim DS 1 TAB PO BID 

 
Discharge Medications:
1.  DICYCLOMine 10 mg PO QID 
RX *dicyclomine 10 mg 1 capsule(s) by mouth four times a day 
Disp #*120 Capsule Refills:*0 
2.  Vitamin D 1000 UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 2,000 unit 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
3.  Sulfameth/Trimethoprim DS 1 TAB PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
Abdominal pain

SECONDARY DIAGNOSES:
Prostatitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your 
hospitalization!

WHY WERE YOU ADMITTED?
- You were having abdominal pain.

WHAT HAPPENED DURING YOUR HOSPITALIZATION?
- You had stool studies performed that are still pending at time 
of discharge.
- You underwent a colonoscopy without any abnormalities 
visualized. The GI doctors took several ___ during the 
procedure.
- You were started on a medication to help with your abdominal 
pain.

WHAT SHOULD YOU DO ONCE YOU LEAVE THE HOSPITAL?
- Continue to take all of your medications as prescribed.
- Follow up with your doctors as ___ below.
- You will get the full biopsy results as an outpatient.

Again, it was a pleasure taking care of you!

All the best,
Your ___ Team
 
Followup Instructions:
___